US05686424
Using the hydrogenation conditions described in example 4, a solution of L-isoleucine, N-[1-(2-benzyloxy-2-oxoethyl)-L-prolyl] benzylamide (14.80 g, 31.76 mmol), 10% palladium on carbon (0.80 g), and methanol (350 mL), was purged with hydrogen, and stirred under an atmosphere of hydrogen at 22° C. After 8 hrs, the solution was purged with argon, filtered through a plug of celite, and concentrated in vacuo to provide 11.47 g, (96%) of L-isoleucine, N-[1-(carboxymethyl)-L-prolyl] benzylamide as a white solid.

reactant | L-isoleucine, N-[1-(2-benzyloxy-2-oxoethyl)-L-prolyl] benzylamide | 31.76 mmol, 14.80 g | C(C1=CC=CC=C1)OC(CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1)=O | C27H35N3O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.80 g | [Pd] | Pd
solvent | methanol | 350 mL | CO | CH4O
product | L-isoleucine, N-[1-(carboxymethyl)-L-prolyl] benzylamide | 96% | C(=O)(O)CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1 | C20H29N3O4
